US08455477B2
To a solution of 2,6-difluoro-4-iodopyridine (7.37 g, 30.6 mmol) in tetrahydrofuran (200 ml) cooled to 0° C. was added a 0.5 M solution of sodium methoxide (61.2 ml, 30.6 mm) in methyl alcohol. After 4 h the reaction mixture was warmed to ambient temperature. LRMS indicated incomplete conversion to product and additional 0.5 M sodium methoxide solution in methyl alcohol (6.12 ml, 3.06 mmol) was added. After 1 hour the reaction mixture was quenched with water (50 ml), partially concentrated, diluted with ethyl ether, washed with water and brine, then dried over magnesium sulfate, filtered, and concentrated to afford 2-fluoro-4-iodo-6-methoxypyridine as a yellow oil which was used without further purification. 1H NMR (600 MHz, DMSO-d6) δ 7.19 (s, 1H); 7.16 (d, 1H); 3.78 (s, 3H).

reactant | 2,6-difluoro-4-iodopyridine | 30.6 mmol, 7.37 g | FC1=NC(=CC(=C1)I)F | C5H2F2IN
reactant | sodium methoxide | 61.2 ml | C[O-].[Na+]
reactant | sodium methoxide | 0.5 M | C[O-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | methyl alcohol | CO | CH4O
solvent | methyl alcohol | 3.06 mmol, 6.12 ml | CO | CH4O
product | 2-fluoro-4-iodo-6-methoxypyridine | FC1=NC(=CC(=C1)I)OC | C6H5FINO
